US04568680
(b) 2-(2-Methoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-c]-pyridin-6-one
0.6 g of crude 4-(2-methoxy-4-methylmercapto-benzoylamino)-5-nitro-1H-pyridin-2-one were dissolved in 10 ml of glacial acetic acid, the solution was mixed with two spatula tipsful of iron powder, and the mixture was stirred for 30 minutes at room temperature. The mixture was then refluxed for 20 minutes, filtered, and the filtrate was evaporated in vacuo. The product thus obtained were purified by chromatography on silica gel (eluant: methylene chloride/ethanol=100:2 to 100:15).

reactant | 4-(2-methoxy-4-methylmercapto-benzoylamino)-5-nitro-1H-pyridin-2-one | 0.6 g | COC1=C(C(=O)NC2=CC(NC=C2[N+](=O)[O-])=O)C=CC(=C1)SC | C14H13N3O5S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | 2-(2-Methoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-c]-pyridin-6-one | COC1=C(C=CC(=C1)SC)C1=NC=2C(CNC(C2)=O)=N1 | C14H13N3O2S
